US07659288B2
2-Chloroethyl-diethylammonium chloride.
(0.19 g, 1.1 mmol) was added to a mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfinylpyrazole (0.4 g, 0.92 mmol) and tripotassium phosphate (0.77 g, 3.7 mmol) in acetonitrile (6 ml), and the mixture heated under reflux for 6 hours. After extractive workup (heptane-ethyl acetate, water) and chromatography the title product was obtained (0.15 g); 1H-NMR: 0.87 (3H), 2.40 (2H), 2.53 (2H), 2.98 (2H), 7.80 (2H); 19F-NMR: −64.2; −74.5 ppm.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfinylpyrazole | 0.92 mmol, 0.4 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4Cl2F6N4OS
reactant | tripotassium phosphate | 3.7 mmol, 0.77 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
reactant | water | O | H2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-Chloroethyl-diethylammonium chloride | [Cl-].ClCC[NH+](CC)CC | InChI=1S/C6H14ClN.ClH/c1-3-8(4-2)6-5-7;/h3-6H2,1-2H3;1H
